US04186199
An ice cold solution of 43.48 g of 1-(2-benzamidophenyl)-5-chloroindoline in 150 ml CH2Cl2 is treated dropwise over 80 minutes with 215 ml POCl3. At the end of the addition, the reaction mixture is permitted to warm to room temperature and the solvent (CH2Cl2) is distilled off at ambient pressure. The resulting POCl3 solution is heated at reflux for 5 hours and then permitted to cool under N2 to room temperature and stand overnight. The POCl3 is distilled off at aspirator pressure. The resulting crude salt is treated cautiously with absolute ethanol and then boiled. The product is filtered, washed with 1:1 ethanol-ether, then with dry ether and is suction dried. Recrystallization from hot ethanol affords 4-chloro-1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine hydrochloride, m.p. 231° C. dec.

reactant | 1-(2-benzamidophenyl)-5-chloroindoline | 43.48 g | C(C1=CC=CC=C1)(=O)NC1=C(C=CC=C1)N1CCC2=CC(=CC=C12)Cl | C21H17ClN2O
reactant | POCl3 | 215 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine hydrochloride | Cl.ClC=1C=C2CCN3C2=C(C(=NC2=C3C=CC=C2)C2=CC=CC=C2)C1 | InChI=1S/C21H15ClN2.ClH/c22-16-12-15-10-11-24-19-9-5-4-8-18(19)23-20(17(13-16)21(15)24)14-6-2-1-3-7-14;/h1-9,12-13H,10-11H2;1H
